US07569578B2
2-Acetoxy-2-(diethoxyphosphoryl)acetic acid
Glyoxylic acid monohydrate (4.00 g, 43.45 mmol) was suspended in diethyl phosphite (5.59 mL, 1.0 equiv) and warmed to 60° C. for 5 h. The reaction was cooled, diluted with dichloromethane (40 mL), and treated with pyridine (3.51 mL, 1.0 equiv) and acetyl chloride (3.09 mL, 1.0 equiv). A significant exotherm was noted. The reaction was stirred at room temperature for 2 h. The reaction was washed with 1 M hydrochloric acid (2×20 mL), then saturated sodium bicarbonate. The organics were dried over magnesium sulfate, and concentrated to give <2 g as an oil. The aqueous washes were combined and extracted with dichloromethane (4×). The organics were dried over magnesium sulfate and concentrated to give 5.85 g (53%) as an oil which solidified upon standing. 1H-NMR (CDCl3, 500 MHz) δ 1.36 (t, J=7.0, 6H), 2.21 (s, 3H), 4.28 (m, 4H), 5.54 (d, J=17.7, 1H), 8.90 (bs, 1H). Mass spec.: 255.10 (MH)+.

reactant | Glyoxylic acid monohydrate | 43.45 mmol, 4.00 g | O.C(C=O)(=O)O
reactant | diethyl phosphite | 5.59 mL, 1.0 equiv | P(OCC)(OCC)[O-]
reactant | pyridine | 3.51 mL, 1.0 equiv | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 3.09 mL, 1.0 equiv | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-Acetoxy-2-(diethoxyphosphoryl)acetic acid | C(C)(=O)OC(C(=O)O)P(=O)(OCC)OCC | C8H15O7P
